US06395750B1
N-Ethyl-N-phenyl-1,2-dihydro-5-dimethylamino-4-hydroxy-1-methyl-2-oxo-quinoline-3-carboxamide (Method B)
N-Ethylaniline (4.4 g, 0.036 mol) was dissolved in 80 ml of toluene. About 30 ml of the solvent was distilled off in order to obtain a dry solution. 1,2-Dihydro-4-hydroxy-5-dimethylamino-1-methyl-2-oxo-quinoline-3-carboxylic acid ethyl ester (3.5 g, 0.012 mol) was added to the boiling solution. The ethanol formed during the reaction was distilled off together with some toluene for about 10 hours. The mixture was cooled to room temperature. The precipitate was collected, washed with cold toluene and hexane and dried to give the title compound (3.1 g), yield 71%.

reactant | N-Ethylaniline | 0.036 mol, 4.4 g | C(C)NC1=CC=CC=C1 | C8H11N
reactant | 1,2-Dihydro-4-hydroxy-5-dimethylamino-1-methyl-2-oxo-quinoline-3-carboxylic acid ethyl ester | 0.012 mol, 3.5 g | C(C)OC(=O)C=1C(N(C2=CC=CC(=C2C1O)N(C)C)C)=O | C15H18N2O4
reactant | ethanol | C(C)O | C2H6O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | N-Ethyl-N-phenyl-1,2-dihydro-5-dimethylamino-4-hydroxy-1-methyl-2-oxo-quinoline-3-carboxamide | 3.1 g, yield 71% | C(C)N(C(=O)C=1C(N(C2=CC=CC(=C2C1O)N(C)C)C)=O)C1=CC=CC=C1 | C21H23N3O3
